US05726306
(2) Trans-7-chloro-5-(2-chlorophenyl)-1-neopentyl-3-[3-(tetrazol-5-yl)phenylaminocarbonylmethyl]-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine
A solution of 0.2 g of trans-7-chloro-5-(2-chlorophenyl)-3-(3-cyanophenylaminocarbonylmethyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine and 80 mg of sodium azide in 5 ml of dimethylformamide was stirred at 90° C. for 60 hours. After water was added, the mixture was washed with water, after which the solvent was removed and the residue was subjected to silica gel column chromatography to yield 0.11 g of a crystal.

reactant | trans-7-chloro-5-(2-chlorophenyl)-3-(3-cyanophenylaminocarbonylmethyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine | 0.2 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)NC2=CC(=CC=C2)C#N)C2=C(C=CC=C2)Cl)C1 | C29H27Cl2N3O3
reactant | sodium azide | 80 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Trans-7-chloro-5-(2-chlorophenyl)-1-neopentyl-3-[3-(tetrazol-5-yl)phenylaminocarbonylmethyl]-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine | 0.11 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)NC2=CC(=CC=C2)C2=NN=NN2)C2=C(C=CC=C2)Cl)C1 | C29H28Cl2N6O3
